US07737149B2
5-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide
1,2,3,4,6,7,8,8a-Octahydropyrrolo[1,2-a]pyrazine (429 mg, 3.40 mmol) was added in one portion to 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (659 mg, 1.70 mmol) in anhydrous dimethylsulfoxide (1.70 ml) at 25° C. The resulting solution was stirred at 100° C. for 18 h. The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH to afford impure material. The concentrated eluent was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% TFA) and MeCN as eluents. The material was then put through basic HPLC to obtain the free base. Fractions containing the desired compound were evaporated to dryness to afford the title compound (438 mg, 54%) as a cream solid.

reactant | 1,2,3,4,6,7,8,8a-Octahydropyrrolo[1,2-a]pyrazine | 3.40 mmol, 429 mg | C1C2N(CCN1)CCC2 | C7H14N2
reactant | 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 1.70 mmol, 659 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C18H18ClN5O3
solvent | dimethylsulfoxide | 1.70 ml | CS(=O)C | C2H6OS
product | 5-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | C1N(CCN2C1CCC2)C=2N=CC(=NC2)C(=O)NC=2NN=C(C2)CCC2=CC(=CC(=C2)OC)OC | C25H31N7O3
